US06875781B2
Following the method described in Example 1, 2-chloro-6-(5-chloro-2-methoxy-phenyl)-pyridin-4-yl-amine and 4-chloro-phenylboronic acid gave 2-chloro-6-(5-chloro-2-methoxy-phenyl)-pyridin-4-yl-(4-chloro-phenyl)-amine in 56% yield. 1H NMR (acetone-d6) δ 3.92(s, 3H, CH3), 6.86 (d, 1H, J=8.9 Hz, Ar), 6.90 (t, 1H, J=1.9 Hz, Ar), 7.18 (d, 1H, J=8.9 Hz, Ar), 7.20 (d, 1H, J=8.9 Hz, Ar), 7.36 (d, 2H, J=8.9 Hz, Ar), 7.41 (dd, 1H, J=8.8 Hz, J=2.8 Hz, Ar), 7.46 (d, 2H, J=8.9 Hz, Ar), 7.72 (t, 1H, J=1.9 Hz, Ar), 7.95 (d, 1H, J=2.8 Hz, Ar).

reactant | 2-chloro-6-(5-chloro-2-methoxy-phenyl)-pyridin-4-yl-amine | ClC1=NC(=CC(=C1)N)C1=C(C=CC(=C1)Cl)OC | C12H10Cl2N2O
reactant | 4-chloro-phenylboronic acid | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
product | 2-chloro-6-(5-chloro-2-methoxy-phenyl)-pyridin-4-yl-(4-chloro-phenyl)-amine | 56% yield | ClC1=NC(=CC(=C1)NC1=CC=C(C=C1)Cl)C1=C(C=CC(=C1)Cl)OC | C18H13Cl3N2O
